US08383654B2
Step 1: 4-Methyl-pyrazole-1-carboxylic acid tert-butyl ester
To 4-methylpyrazole (0.60 mL, 7.5 mmol) and triethylamine (2.6 mL, 18.8 mmol) in CH2Cl2 (75 mL) was added di-tert-butyl dicarbonate (1.8 g, 8.3 mmol), and the reaction was stirred for 1 hour at room temperature. 4-Dimethylaminopyridine (0.03 g, 0.25 mmol) was added, and the reaction was stirred for another 2 hours, until no starting material was seen by analytical tlc. After aqueous work-up, the crude material was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give the title compound.

reactant | 4-methylpyrazole | 7.5 mmol, 0.60 mL | CC=1C=NNC1 | C4H6N2
reactant | triethylamine | 18.8 mmol, 2.6 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 8.3 mmol, 1.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-Dimethylaminopyridine | 0.25 mmol, 0.03 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-Methyl-pyrazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=CC(=C1)C | C9H14N2O2
